Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Exercise stress ECG test

 
History of Present Illness:
___ w/hx of HTN, obesity, smoking, and family hx of early MI, 
presenting with one week of intermittent left-sided dull chest 
pressure, non-radiating, lasting minutes. He identifies no 
factors that precipitate or relieve his pain; he is not active, 
no relationship to food, no cough or URI symptoms lately. 
Associated symptoms include two episodes of diaphoresis feeling 
"hot all over," one episode of nausea, and shortness of breath. 
He has noticed ___ edema increasing over the past few weeks. He 
has otherwise been feeling well. Limited activity beyond 
walking. He came in as he grew concerned that given his family 
history that his symptoms could be cardiac in nature.   
 
In the ED, initial vitals: ___ (pain) 98.1 92 145/97 18 98% RA. 
ECG with no ST elevations or depressions at this time. Negative 
troponins x2. Cr 0.9. Received ASA 324 mg, SLN, morphine sulfate 
2 mg, bupropion 150 mg. Underwent ETT with CP but no ECG 
changes. Seen by cards who recommended cardiology admit. 

On the floor, patient states he has ___ pain that's been for 
the past 20 minutes, later came down to ___. 
 
Past Medical History:
Hypertension
Obesity 
Smoking
 
Social History:
___
Family History:
Father with MI and died at age ___, multiple paternal uncles with
MIs in ___.
 
Physical Exam:
ADMISSION
VS: 97.8, 148/104, 86, 20, 96 RA
149.4 kg
General: NAD, obese gentleman
HEENT: PERRL, EOMI, anicteric sclera oropharynx clear, MMM 
Lungs: clear to auscultation b/l
Heart:  JVP not elevated (difficult to assess); RRR, distant, no
murmur. 
Abdomen: obese, soft, NT, ND, NABS, no HSM, 
Extremities: Trace edema
Skin:  Warm and dry.  No cyanosis.
Neurologic; Speech intact; Alert; Affect appropriate; No gross
motor abnormalities.

DISCHARGE
VS: 97.7, 119-140/70-81, 73-78, 18, ___ RA
General: NAD, obese gentleman
HEENT: PERRL, EOMI, anicteric sclera oropharynx clear, MMM 
Lungs: clear to auscultation b/l
Heart:  JVP not elevated (difficult to assess); RRR, distant, no
murmur. 
Abdomen: obese, soft, NT, ND, NABS, no HSM, 
Extremities: Trace edema
Skin:  Warm and dry.  No cyanosis.
Neurologic; Speech intact; Alert; Affect appropriate; No gross
motor abnormalities.
 
Pertinent Results:
___ 11:02AM BLOOD WBC-6.1 RBC-5.05 Hgb-16.9 Hct-47.0 MCV-93 
MCH-33.4* MCHC-35.9* RDW-13.4 Plt ___
___ 11:02AM BLOOD Neuts-50.1 ___ Monos-8.0 Eos-3.8 
Baso-1.1
___ 07:07AM BLOOD Glucose-104* UreaN-23* Creat-1.0 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-14
___ 11:02AM BLOOD Glucose-101* UreaN-18 Creat-0.9 Na-137 
K-4.2 Cl-101 HCO3-24 AnGap-16
___ 07:07AM BLOOD CK(CPK)-51
___ 08:58PM BLOOD CK(CPK)-55
___ 07:07AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:58PM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:25PM BLOOD CK-MB-1 cTropnT-<0.01
___ 11:02AM BLOOD cTropnT-<0.01
___ 07:07AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 11:02AM BLOOD Calcium-9.8 Phos-3.1 Mg-1.9

Cardiovascular ReportStressStudy Date of ___  
 
EXERCISE RESULTS

RESTING DATA
EKG:  SINUS, ERWP, BORDERLINE AV DELAY 
HEART RATE:  75BLOOD PRESSURE:  140/104
 
PROTOCOL MODIFIED ___ - TREADMILL
STAGETIMESPEEDELEVATIONHEARTBLOODRPP
 (MIN)(MPH)(%)RATEPRESSURE 
___
 
TOTAL EXERCISE TIME:  7.25% MAX HRT RATE ACHIEVED:  74
SYMPTOMS:ANGINAPEAK ___ LEFT SIDED CHEST PRESSURE
 TIMEHRBPRPP
ONSET:___
RESOLUTION:2 ___
ST DEPRESSION:NONE
 
INTERPRETATION: This ___ year old man with a h/o HTN, smoking and 
a
positive family h/o premature CAD was referred to the lab from 
the ED
following negative serial cardiac biomarkers for evaluation of 
chest
discomfort, shortness of breath and palpitations. The patient 
exercised
for 7.25 mintues of a modified ___ protocol and stopped for 
fatigue.
The estimated peak MET capacity is 5.2, representing a poor 
functional
capacity for his age. At 7 minutes of exercise the patient 
reported a
___ left sided chest pressure/discomfort which resolved 
completely with
rest by 2 minutes of recovery. There were no significant ST 
segment
changes seen with exercise or in recovery. The rhythm was sinus 
with one
VPB during exercise. Baseline diastolic hypertension with an 
appropriate
BP response to exercise and recovery. Blunted HR response to 
exercise.
IMPRESSION: Anginal type symptoms in the absense of ischemic EKG
changes. Baseline diasolic hypertension. Blunted HR response to
exercise. Poor functional capacity.

CXR ___
FINDINGS: 
Lung volumes are low but the lungs appear clear.  The 
cardiomediastinal silhouette, hilar contours, and pleural 
surfaces are normal. There is no pleural effusion or 
pneumothorax.
IMPRESSION: 
No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
___ yo M with multiple risk factors for CAD presents with 
intermittent CP during stress test without ECG changes, admitted 
for further workup of ACS. 

# Chest pain - Symptoms have both typical and atypical features. 
No ECG changes, though did not reach 85% predictive heart rate 
and low METS. Moderate treadmill risk score given poor 
functional status and chest pain. Smoking and family history are 
also concerning. Admitted for persantineMIBI  given blunted 
response to exercise ___ but cannot do it on the weekend and as 
patient's chest pain resolved after admission, scheduled an 
appointment for him to get the test on ___ as an 
outpatient.

CHRONIC:
# Hypertension - continued home hydrochlorothiazide.
# Smoking - used to be 2PPD smoker but quit a few months ago, 
now smokes e-cigarettes. Offerred nicotine patch but patient 
said he'd rather see how he does without it. Counseled on 
smoking cessation (including e-cigarettes.)

Transitional Issues:
- No medication changes
- Outpatient pharmMIBI on ___ (they will 
call him ___ morning to make an appointment and he was also 
given the information to call in case there is any problem)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Chest pain

SECONDARY:
-Hypertension
-Family history of heart disease
-Smoking
-Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___. You were admitted to the hospital with chest 
pain. Your electrocardiogram (ECG) and blood work was reassuring 
and showed no evidence of a heart attack. You had a stress test 
which produced chest pain without any findings on the ECG. Your 
chest pain improved. You will need to follow up with a 
cardiologist and have a nuclear stress test performed as an 
outpatient. Please call them on ___ to have both of this 
scheduled.

Sincerely,

Your ___ Cardiology Team
 
Followup Instructions:
___